US08133882B2
To a 100 ml dichloromethane solution of 13.8 g of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(hydroxymethyl)quinolin-4(1H)-one was added 67.0 g of manganese dioxide at room temperature, followed by overnight stirring. After completion of the reaction and subsequent filtration using celite, the filtrate was evaporated under a reduced pressure. By crystallizing the resulting solid from ethyl acetate, 13.0 g of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbaldehyde was obtained.

reactant | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(hydroxymethyl)quinolin-4(1H)-one | 13.8 g | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)CO)=O)F | C21H27FN2O2
catalyst | manganese dioxide | 67.0 g | [O-2].[O-2].[Mn+4]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbaldehyde | 13.0 g | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C=O)=O)F | C21H25FN2O2
